US08426420B2
ii) (R)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionic acid
To a solution of 745 mg (R)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionic acid tert-butyl ester in 5 ml dichloromethane were added 1.6 ml TFA. After stirring for 6 h it was concentrated and codistilled twice with toluene to give the crude product. Yield: 770 mg

reactant | (R)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionic acid tert-butyl ester | 745 mg | C(C)(C)(C)OC([C@@H](C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C28H37N5O6
reactant | TFA | 1.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionic acid | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)N[C@@H](C(=O)O)C)=O | C24H29N5O6
